US04218476
(a) N-mesitylethene-sulphonamide
27.0 g (0.20 mole) mesitylamine were dissolved in 80 ml diethyl ether and mixed with 66.8 g (0.66 mole) triethylamine. The mixture was added dropwise to a stirred solution of 45.6 g (0.22 mole) bromoethylsulphochloride in 160 ml diethyl ether. The mixture was then refluxed for 5.5 hours and evaporated to dryness. The residue was treated with chloroform and 2 N hydrochloric acid and shaken. The chloroform phase was separated and extracted with 2 N sodium hydroxide solution. The alkaline aqueous phase was washed with chloroform, acidified with concentrated hydrochloric acid, and extracted with chloroform. The chloroform phase was dried over anhydrous magnesium sulphate and evaporated to dryness. 15.5 g of the crude title compound was obtained, which, after recrystallization from a mixture of di-isopropylether and hexane, melted at 117°-120° C.

reactant | mesitylamine | 0.20 mole, 27.0 g | C1(=C(C(=CC(=C1)C)C)N)C | C9H13N
reactant | triethylamine | 0.66 mole, 66.8 g | C(C)N(CC)CC | C6H15N
reactant | bromoethylsulphochloride | 0.22 mole, 45.6 g | BrCCOS(=O)(=O)Cl | C2H4BrClO3S
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 160 ml | C(C)OCC | C4H10O
product | N-mesitylethene-sulphonamide | 15.5 g | C1(=C(C(=CC(=C1)C)C)NS(=O)(=O)C=C)C | C11H15NO2S
